### PR TITLE
Flush vcpu when switching and setting domain and prove cur_fpu_in_cur_domain 

### PR DESCRIPTION
**Pull request by corlewis**
Test with https://github.com/seL4/seL4/pull/1506

### CODE REVIEW

File: proof/ROOT [hunk 1]
```diff
@@ -73,17 +73,11 @@ session AInvs in "invariant-abstract" = ASpec +
   directories
     "$L4V_ARCH"
   theories [condition = "SKIP_AINVS_PROOFS", quick_and_dirty, skip_proofs]
-    "KernelInit_AI"
-    "$L4V_ARCH/ArchDetSchedSchedule_AI"
-    "$L4V_ARCH/ArchFPU_AI"
+    "AInvsToplevel_AI"
```
Comment (lsf37) [inline proof/ROOT:76]: I like the new top-level theory. Having to click through all the single theories has always been annoying and a risk for forgetting one interactively.

File: proof/access-control/AARCH64/ArchArch_AC.thy [hunk 2]
```diff
@@ -2233,6 +2233,49 @@ lemma vcpu_invalidate_active_respects[wp]:
...
+lemma vcpu_invalidate_active_vcpu_proj[wp]:
+  "\<lbrace>\<lambda>s. vopt = vcpu_proj r l True v a p s \<and> savedWhenDisabledRegs \<subseteq> r \<and> h\<rbrace>
+   vcpu_invalidate_active
+   \<lbrace>\<lambda>rv s. vopt = vcpu_proj r l h v a p s\<rbrace>"
+  supply if_split[split del] if_split_asm[split]
+  unfolding vcpu_invalidate_active_def
+  by wpsimp
+
+\<comment> \<open>FIXME: trivial helper lemmas for vcpu_flush_integrity_hyp\<close>
+lemma vcpu_invalid_active_arm_current_vcpu_not_Some[wp]:
```
Comment (lsf37) [inline proof/access-control/AARCH64/ArchArch_AC.thy]: Do you mean with the FIXME that these lemmas might not be necessary or that they should be moved elsewhere?

They could go into AInvs, but if I think about fixing the FIXME, I'm not sure I would actually decide to move them if they are not used there currently.

File: proof/access-control/AARCH64/ArchArch_AC.thy [hunk 3]
```diff
@@ -2233,6 +2233,49 @@ lemma vcpu_invalidate_active_respects[wp]:
...
+  "\<lbrace>\<top>\<rbrace> vcpu_invalidate_active \<lbrace>\<lambda>_ s. arm_current_vcpu (arch_state s) \<noteq> Some (v, b)\<rbrace>"
+  unfolding vcpu_invalidate_active_def
+  by wpsimp
+
+lemma vcpu_invalid_active_arm_current_vcpu_not_Some'[wp]:
+  "\<lbrace>\<bottom>\<rbrace> vcpu_invalidate_active \<lbrace>\<lambda>_ s. arm_current_vcpu (arch_state s) = Some (v, b)\<rbrace>"
```
Comment (lsf37) [inline proof/access-control/AARCH64/ArchArch_AC.thy]: That's interesting, I don't think we've done much precondition False yet for `wp`, but I think it works here. Kinda nice.

File: proof/crefine/AARCH64/VSpace_C.thy [hunk 4]
```diff
@@ -3047,6 +3047,164 @@ lemma vcpu_switch_ccorres:
         (vcpuSwitch v) (Call vcpu_switch_'proc)"
   by (cases v; clarsimp simp: vcpu_switch_ccorres_None[simplified] vcpu_switch_ccorres_Some[simplified])
 
+lemma modify_armHSCurVCPU_split:
+  "modifyArchState (armHSCurVCPU_update (\<lambda>_. p)) = do modifyArchState (armHSCurVCPU_update f);
+                                                      modifyArchState (armHSCurVCPU_update (\<lambda>_. p))
+                                                   od"
+  apply (clarsimp simp: modifyArchState_def modify_modify)
+  apply (rule ext)
```
Comment (lsf37) [inline proof/crefine/AARCH64/VSpace_C.thy:3055]: Have you tried the `monad_eq` tactic for these? Might not be strong enough, but sometimes it is surprisingly good.

File: proof/crefine/AARCH64/VSpace_C.thy [hunk 5]
```diff
@@ -3047,6 +3047,164 @@ lemma vcpu_switch_ccorres:
...
+  apply (clarsimp simp: modifyArchState_def)
+  apply (rule ccorres_from_vcg)
+  apply (rule allI, rule conseqPre, vcg)
+  apply (clarsimp simp: simpler_gets_def simpler_modify_def)
+  apply (clarsimp simp: rf_sr_def cstate_relation_def Let_def)
+  apply (clarsimp simp: carch_state_relation_def carch_globals_def cur_vcpu_relation_def)
+  done
+
+(* FIX ARMHYP MOVE *)
+lemma armHSCurVCPU_update_active_false_ccorres:
```
Comment (lsf37) [inline proof/crefine/AARCH64/VSpace_C.thy]: `FIX` -> `FIXME:` (otherwise grep won't find it)

(or, of course, you could move it now :))

File: proof/crefine/AARCH64/VSpace_C.thy [hunk 6]
```diff
@@ -3047,6 +3047,164 @@ lemma vcpu_switch_ccorres:
...
+           (Call vcpu_invalidate_active_'proc)"
+  apply cinit
+   apply (rule ccorres_pre_getCurVCPU)
+        apply (subst modify_armHSCurVCPU_when_split)
+   apply (subst bind_assoc[symmetric])
+   apply (rule ccorres_split_nothrow[where r'=dc and xf'=xfdc])
+    apply (rule_tac Q="\<lambda>s. (armHSCurVCPU \<circ> ksArchState) s = hsCurVCPU"
+                   and Q'=UNIV
+                   and C'="{s. \<exists> t. hsCurVCPU =  Some t \<and> snd t}"
+                   in ccorres_rewrite_cond_sr)
```
Comment (lsf37) [inline proof/crefine/AARCH64/VSpace_C.thy]: indent looks off on this one (either +1 or -2)

File: proof/crefine/AARCH64/VSpace_C.thy [hunk 7]
```diff
@@ -3047,6 +3047,164 @@ lemma vcpu_switch_ccorres:
...
+        apply (frule rf_sr_ksArchState_armHSCurVCPU)
+        apply (case_tac "\<exists> t. (armHSCurVCPU \<circ> ksArchState) s =  Some t \<and> snd t")
+         apply (clarsimp simp: cur_vcpu_relation_def)
+        apply (clarsimp simp: cur_vcpu_relation_def)
+        apply (case_tac "(armHSCurVCPU \<circ> ksArchState) s"; clarsimp)
+       apply (rule_tac a=" _ >>= (\<lambda>_. when (hsCurVCPU \<noteq> None \<and> snd (the hsCurVCPU))
+                                          (modifyArchState(armHSCurVCPU_update
+                                             (\<lambda>a. case a of None \<Rightarrow> None
+                                                                 | Some (a,_) \<Rightarrow> Some (a, False)))))"
+                       in match_ccorres)
```
Comment (lsf37) [inline proof/crefine/AARCH64/VSpace_C.thy]: indent looks off on the `Some`

File: proof/crefine/ARM_HYP/VSpace_C.thy [hunk 8]
```diff
@@ -2444,6 +2444,163 @@ lemma vcpu_switch_ccorres:
...
+  "ccorres dc xfdc (\<lambda>s. armHSCurVCPU (ksArchState s) = curvcpu) UNIV hs (modifyArchState (armHSCurVCPU_update (\<lambda>_. curvcpu))) SKIP"
+  apply (clarsimp simp: modifyArchState_def)
+  apply (rule ccorres_from_vcg)
+  apply (rule allI, rule conseqPre, vcg)
+  apply (clarsimp simp: simpler_gets_def simpler_modify_def)
+  apply (clarsimp simp: rf_sr_def cstate_relation_def Let_def)
+  apply (clarsimp simp: carch_state_relation_def carch_globals_def cur_vcpu_relation_def)
+  done
+
+(* FIX ARMHYP MOVE *)
```
Comment (lsf37) [inline proof/crefine/ARM_HYP/VSpace_C.thy]: (same as above)

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy [hunk 9]
```diff
@@ -0,0 +1,605 @@
...
+
+context Arch begin arch_global_naming
+
+section \<open>cur_vcpu_in_cur_domain\<close>
+\<comment> \<open>FIXME: @{term cur_vcpu} could be reworked so that it could be reused here\<close>
+definition cur_vcpu_tcb :: "'z::state_ext state \<Rightarrow> obj_ref option" where
+  "cur_vcpu_tcb s \<equiv>
+     case arm_current_vcpu (arch_state s) of
+       Some (v, _) \<Rightarrow> vcpu_tcbs_of s v
+     | None \<Rightarrow> None"
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: Is that FIXME something we actually want to/should do? I think we looked at it in the past, and it doesn't quite work out without changing lots of things. If that is the case, we should probably remove the FIXME, and turn it into a comment that says that we have looked at it, so we don't repeat the process.

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy [hunk 10]
```diff
@@ -0,0 +1,605 @@
...
+          apply (fastforce simp: opt_map_def elim!: rsubst[where P=P])
+         by wpsimp+
+
+crunch vcpu_disable, vcpu_restore, vcpu_save
+  for vcpu_tcbs_of[wp]: "\<lambda>s. P (vcpu_tcbs_of s)"
+  (wp: crunch_wps)
+
+\<comment> \<open>FIXME: is using opt_pred here actually nice?\<close>
+lemma vcpu_switch_cur_vcpu_in_cur_domain[wp]:
+  "\<lbrace>\<lambda>s. cur_vcpu_in_cur_domain s \<and> none_top ((\<lambda>t. in_cur_domain t s) |< vcpu_tcbs_of s) v\<rbrace>
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: It think it worked out, we can remove the FIXME

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy [hunk 11]
```diff
@@ -0,0 +1,605 @@
...
+  apply (wpsimp wp: hoare_drop_imps gts_wp)
+  by (safe; (fastforce simp: valid_sched_def valid_sched_action_def weak_valid_sched_action_def
+                             switch_in_cur_domain_def st_tcb_at_def obj_at_def)?)
+
+
+\<comment> \<open>handle_interrupt\<close>
+
+\<comment> \<open>FIXME: generalise to other objects?\<close>
+lemma set_endpoint_vcpus_of[wp]:
+  "set_endpoint p ep \<lbrace>\<lambda>s. P (vcpus_of s)\<rbrace>"
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: I'm not sure these are easy to generalise, they express what type the `set_object` works on, but anything that describes that and that is not object-level tags has the same kind of quadratic behaviour that we see here. It think the best we can do with these is a proof method (we might already have one for other projections, because it's always the same proof), and potentially some automation for stating the lemmas, given a set of basic functions. Like a crunch for projections.

Stepping away from this for a bit, we do have this pattern a few times: stating the same kind of lemma for a bunch of functions, applying the same proof method to it. Maybe that is something more general that we could actually write. It'd take a term as input that has e.g. an `?f` where the function would go, a naming scheme like for crunch, a list of functions, and a proof method. It would then instantiate the pattern with the given functions, and apply the proof method to each. Could of course also be a list of patterns (same generalisation as we did for `crunches`). I think that might be quite useful and would help with these kinds of patterns.

Comment (lsf37) [reply proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: (not that I'm suggesting this for this PR, but if people like it, I might give that a go after I finish the current platform proofs)

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy [hunk 12]
```diff
@@ -0,0 +1,605 @@
...
+
+lemma dissociate_vcpu_tcb_not_current_vcpu[wp]:
+  "\<lbrace>\<top>\<rbrace> dissociate_vcpu_tcb vcpu_ptr tcb_ptr \<lbrace>\<lambda>_ s. map_option fst (arm_current_vcpu (arch_state s)) \<noteq> Some vcpu_ptr\<rbrace>"
+  unfolding dissociate_vcpu_tcb_def
+  by (wpsimp wp: get_vcpu_wp arch_thread_get_wp vcpu_invalid_active_arm_current_vcpu_None[THEN hoare_strengthen_post])
+
+\<comment> \<open>FIXME: Is this nice? If it is, generalise and move\<close>
+lemma if_option_eq':
+  "((if P then Some x else Q) = None) = (\<not> P \<and> Q = None)"
+  by auto
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: That looks like a slight generalisation of the `if_option_eq` lemmas in Lib. Which would be nice to do there -- Lib has `None` for `Q`, and I think all of the rules could take a pattern there. But not really urgent either.

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy [hunk 13]
```diff
@@ -0,0 +1,605 @@
...
+\<comment> \<open>FIXME: move (where?)\<close>
+lemma bound_vcpu_bound_tcb_at:
+  "\<lbrakk>sym_refs (state_hyp_refs_of s); valid_objs s; vcpu_tcbs_of s vcpuptr = Some tcbptr\<rbrakk>
+   \<Longrightarrow> arch_tcb_at (\<lambda>itcb. itcb_vcpu itcb = (Some vcpuptr)) tcbptr s"
+  apply (drule_tac x=vcpuptr in sym_refsD[rotated])
+   apply (fastforce simp: state_hyp_refs_of_def pred_tcb_at_def obj_at_def in_omonad)
+  apply (clarsimp simp: in_omonad)
+  apply (erule (1) valid_objsE)
+\<comment> \<open>FIXME: @{thm valid_obj_arch_valid_obj} should be simp\<close>
+  apply (clarsimp simp: valid_obj_def valid_vcpu_def typ_at_eq_kheap_obj)
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: Should that be done now?

File: proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy [hunk 14]
```diff
@@ -320,33 +362,95 @@ lemma do_reply_transfer_arch_tcb_at[wp]:
...
-  and active_cur_vcpu_of[wp]: "\<lambda>s. P (active_cur_vcpu_of s)"
+  for active_cur_vcpu_of[wp]: "\<lambda>s. P (active_cur_vcpu_of s)"
   (wp: crunch_wps mapME_x_inv_wp preemption_point_inv
    simp: crunch_simps mapM_x_def[symmetric] active_cur_vcpu_of_def)
 
+\<comment> \<open>FIXME: Replace earlier lemmas that don't have the Qs. These do have extra preconditions however,
+          so updating proofs for this might not be completely trivial.\<close>
+lemma delete_objects_etcb_at':
+  "\<lbrace>\<lambda>s. Q (etcb_at P t s) \<and> (t \<notin> {ptr..ptr + 2 ^ bits - 1})\<rbrace>
+   delete_objects ptr bits
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy]: If the more general versions have more preconditions, there would be value in keeping the old ones around. I.e. I'd turn the FIXME into a comment that the precondition is the reason we are keeping the old ones.

File: proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy [hunk 15]
```diff
@@ -474,111 +585,202 @@ crunch perform_page_table_invocation, perform_page_invocation,
...
-  for cur_thread[wp]: "\<lambda>s. P (cur_thread s )"
-  and active_cur_vcpu_of[wp]: "\<lambda>s. P (active_cur_vcpu_of s)"
+  for active_cur_vcpu_of[wp]: "\<lambda>s. P (active_cur_vcpu_of s)"
   and valid_cur_vcpu[wp]: valid_cur_vcpu
 
+\<comment> \<open>FIXME: Replace earlier lemmas that don't have the Qs. These do have extra preconditions however,
+          so updating proofs for this might not be completely trivial.\<close>
+lemma perform_asid_control_etcb_at':
+  "\<lbrace>\<lambda>s. Q (etcb_at P t s) \<and> st_tcb_at ((Not \<circ> inactive) and (Not \<circ> idle)) t s \<and> invs s \<and> valid_aci aci s \<rbrace>
+   perform_asid_control_invocation aci
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy]: (see above)

File: proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy [hunk 16]
```diff
@@ -304,30 +329,91 @@ lemma do_reply_transfer_arch_tcb_at[wp]:
...
-  for cur_thread[wp]: "\<lambda>s. P (cur_thread s)"
-  and active_cur_vcpu_of[wp]: "\<lambda>s. P (active_cur_vcpu_of s)"
+  for active_cur_vcpu_of[wp]: "\<lambda>s. P (active_cur_vcpu_of s)"
   (wp: crunch_wps mapME_x_inv_wp preemption_point_inv
    simp: crunch_simps mapM_x_def[symmetric] active_cur_vcpu_of_def)
 
+\<comment> \<open>FIXME: Replace earlier lemmas that don't have the Qs. These do have extra preconditions however,
+          so updating proofs for this might not be completely trivial.\<close>
+lemma delete_objects_etcb_at':
+  "\<lbrace>\<lambda>s. Q (etcb_at P t s) \<and> (t \<notin> {ptr..ptr + 2 ^ bits - 1})\<rbrace>
```
Comment (lsf37) [inline proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy]: (see above)

File: proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy [hunk 17]
```diff
@@ -462,106 +558,196 @@ crunch perform_page_table_invocation, perform_page_directory_invocation, perform
...
 crunch perform_asid_control_invocation
-  for cur_thread[wp]: "\<lambda>s. P (cur_thread s )"
-  and active_cur_vcpu_of[wp]: "\<lambda>s. P (active_cur_vcpu_of s)"
+  for active_cur_vcpu_of[wp]: "\<lambda>s. P (active_cur_vcpu_of s)"
   (simp: active_cur_vcpu_of_def)
 
+\<comment> \<open>FIXME: Replace earlier lemmas that don't have the Qs. These do have extra preconditions however,
+          so updating proofs for this might not be completely trivial.\<close>
+lemma perform_asid_control_etcb_at':
+  "\<lbrace>\<lambda>s. Q (etcb_at P t s) \<and> st_tcb_at ((Not \<circ> inactive) and (Not \<circ> idle)) t s \<and> invs s \<and> valid_aci aci s \<rbrace>
```
Comment (lsf37) [inline proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy]: (see above)

File: proof/refine/ARM_HYP/VSpace_R.thy [hunk 18]
```diff
@@ -768,7 +768,10 @@ lemma corres_gets_gicvcpu_numlistregs:
                       (gets (armKSGICVCPUNumListRegs \<circ> ksArchState))"
   by (simp add: state_relation_def arch_state_relation_def)
 
-lemmas corres_split_forward = corres_underlying_split[rule_format, where Q="\<lambda>_. P" and P=P  and Q'="\<lambda>_. P'" and P'=P' for P P']
+lemma corres_gets_current_vcpu[corres]:
+  "corres (=) \<top> \<top> (gets (arm_current_vcpu \<circ> arch_state))
+                      (gets (armHSCurVCPU \<circ> ksArchState))"
```
Comment (lsf37) [inline proof/refine/ARM_HYP/VSpace_R.thy]: indent looks off

File: spec/abstract/AARCH64/VCPUAcc_A.thy [hunk 19]
```diff
@@ -263,6 +263,37 @@ definition vcpu_switch :: "obj_ref option \<Rightarrow> (unit,'z::state_ext) s_m
...
+definition vcpu_flush_if_current :: "obj_ref \<Rightarrow> (unit,'z::state_ext) s_monad" where
+  "vcpu_flush_if_current t \<equiv> do
+     cur_vcpu \<leftarrow> gets (arm_current_vcpu \<circ> arch_state);
+     vcpu \<leftarrow> arch_thread_get tcb_vcpu t;
+     when (vcpu = map_option fst cur_vcpu) vcpu_flush
+   od"
+
+(*FIXME: find the right place to move this to, ArchTcb_A doesn't work as it is imported by VCPUAcc_A
+    and leads to an unresolvable circular dependency*)
+definition arch_prepare_set_domain :: "obj_ref \<Rightarrow> domain \<Rightarrow> (unit,'z::state_ext) s_monad" where
```
Comment (lsf37) [inline spec/abstract/AARCH64/VCPUAcc_A.thy]: I don't think it is a problem that the function is here in HYP architectures and in `ArchTcb_A` in non-HYP architectures. I'd put a comment in the non-HYP architectures that it is in `ArchTcb_A`, because they don't have the `VCPUAcc_A` file to explain the discrepancy, and maybe leave comment here that it can't go into `ArchTCB_A`, because that would lead to a circular dependency. Then we know what's going on and can find things from either direction.

File: spec/abstract/ARM_HYP/ArchVSpace_A.thy [hunk 20]
```diff
@@ -600,6 +600,34 @@ where
...
+definition vcpu_flush_if_current :: "obj_ref \<Rightarrow> (unit,'z::state_ext) s_monad" where
+  "vcpu_flush_if_current t \<equiv> do
+     cur_vcpu \<leftarrow> gets (arm_current_vcpu \<circ> arch_state);
+     vcpu \<leftarrow> arch_thread_get tcb_vcpu t;
+     when (vcpu = map_option fst cur_vcpu) vcpu_flush
+   od"
+
+(*FIXME: find the right place to move this to, ArchTcb_A doesn't work as it is imported by ArchVSpace_A
+    and leads to an unresolvable circular dependency*)
+definition arch_prepare_set_domain :: "obj_ref \<Rightarrow> domain \<Rightarrow> (unit,'z::state_ext) s_monad" where
```
Comment (lsf37) [inline spec/abstract/ARM_HYP/ArchVSpace_A.thy]: (see above)

**Review by lsf37 — APPROVED** [review]
Well done. Amazing how those seemingly small invariants can expand into needing changes in 100 files, but that is the way of the proof. Content is good, my only comments are about resolving some of the FIXMEs so our future selves have less despair :-)

File: proof/access-control/AARCH64/ArchArch_AC.thy (hunk 2 above)
Comment (corlewis) [reply proof/access-control/AARCH64/ArchArch_AC.thy]: Whoops, I forgot about these. I think my intent was that these lemmas were so trivial that it felt like they shouldn't exist and that I should come back to them to try and find a different solution. The first one is an alternative version of `vcpu_invalid_active_arm_current_vcpu_None` but with a postcondition of `_ ≠ Some _` instead of `_ = None`, and the second is basically an instantiation of `hoare_pre_cont`.

Comment (corlewis) [reply proof/access-control/AARCH64/ArchArch_AC.thy]: Ok, the first one has been replaced with `strengthen None_Some_strg` and the second one is now done by using an instantiated `hoare_pre_cont` directly in the relevant proof. Now that I'm thinking about it again, I'd say that the `False` precondition was a safe `wp` lemma but could have caused some serious confusion if that lemma applied unexpectedly elsewhere.

Comment (corlewis) [reply proof/access-control/AARCH64/ArchArch_AC.thy]: As an aside, while adding that `strengthen` I thought that it would be nice if it could be added to `wpsimp` directly instead of needing to do `(wpsimp ... | strengthen ...)+`. Unfortunately, it looks like `strengthen` can't be used in Eisbach methods, because it doesn't seem to like the dummy invocation I think it does.

```
exception CTERM raised (line 149 of "l4v/lib/Monads/Strengthen.thy"):
  gather_to_imp
  TERM _
  ```

File: proof/crefine/AARCH64/VSpace_C.thy (hunk 4 above)
Comment (corlewis) [reply proof/crefine/AARCH64/VSpace_C.thy:3055]: This and the following lemmas were actually just moved from a later file. I'll do the easier cleanup from your suggestions but might leave the more involved changes for another time.

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy (hunk 9 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: To make things more confusing, I think we looked at the similar `active_cur_vcpu_of` in `ArchVCPU_AI`. That one has a comment saying `(* This is similar to cur_vcpu_2, but not close enough to reuse. *)`, presumably for exactly the reason you said. This one though is actually similar enough that I think a generalisation would work, although I'm less sure how much benefit that would have.

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy (hunk 11 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: In this case I feel like at least be some sort of generalisation handling `set_endpoint` and `set_notification` should be possible, since `set_simple_ko` asserts that the object previously there was one of those types, but that's small enough that it's probably not worth trying to do.

More generally, your idea does sound pretty good but I think it would be worth doing a rough survey of the proofs first to find examples of these patterns. That would both help us decide a priority for doing this and also guide what it would look like.

Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: I guess that leads to the more immediate question, should I remove this FIXME or leave it as a signpost for if we do try out your idea?

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy (hunk 13 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: I thought it should but after trying it out I now think that there are too many existing proofs that expect `valid_obj` and break when it is preemptively simplified into `arch_valid_obj`. I've left a comment saying that and will remove this FIXME.

File: proof/access-control/AARCH64/ArchArch_AC.thy (hunk 2 above)
Comment (lsf37) [reply proof/access-control/AARCH64/ArchArch_AC.thy]: Huh, interesting. I've also wondered a few times about adding strengthen to wpsimp, you got one step further with that than me :-). Maybe we can make Strengthen.thy more robust by catching the exception and defaulting to no_tac if we get one.

File: proof/crefine/AARCH64/VSpace_C.thy (hunk 4 above)
Comment (lsf37) [reply proof/crefine/AARCH64/VSpace_C.thy:3055]: No worries

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy (hunk 11 above)
Comment (lsf37) [reply proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: I would remove the FIXME and put it in an issue (maybe with a pointer to these lemmas as an example). MCS also has a few of these where projections are established, and I remember vaguely thinking about something like this when I did RISCV64 back in the day and again in AARCH64. It never got across the threshold, but if we do it right, it might be a nice tool that can do a lot more than what we're thinking of right now.

File: proof/ROOT (hunk 1 above)
Comment (Xaphiosis) [reply proof/ROOT:76]: Thanks for doing this. We now have an AI-enhanced toplevel theory :)

File: spec/haskell/src/SEL4/Object/ObjectType/AARCH64.hs [hunk 21]
```diff
@@ -304,3 +304,12 @@ prepareThreadDelete thread = do
       Just ptr -> dissociateVCPUTCB ptr thread
       _ -> return ()
     fpuRelease thread
+
+-- Save and clear FPU and VCPU state before setting the domain of a TCB, to ensure that
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/ObjectType/AARCH64.hs]: This was confusing to read. First I thought "what, any TCB?", then I thought "only the current TCB?", then I thought "hang on, it only does if if we change the TCB, not when we set it". It seems it's something more like "Save/clear any FPU and VCPU state of a TCB before changing its domain, [...]"? (same comment for other arches)

Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/ObjectType/AARCH64.hs]: (I recognise the original came from other commits, but since we're here...)

File: spec/haskell/src/SEL4/Object/VCPU/AARCH64.hs [hunk 22]
```diff
@@ -503,6 +504,19 @@ vcpuSwitch (Just new) = do
...
 
+vcpuFlush :: Kernel ()
+vcpuFlush = do
+    curVCPU <- gets (armHSCurVCPU . ksArchState)
+    when (curVCPU /= Nothing) $ do
+        vcpuSave curVCPU
+        vcpuInvalidateActive
+
+vcpuFlushIfCur :: PPtr TCB -> Kernel ()
+vcpuFlushIfCur t = do
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/VCPU/AARCH64.hs]: bikeshed: would prefer "Current" to "Cur"

File: spec/haskell/src/SEL4/Object/VCPU/AARCH64.hs [hunk 23]
```diff
@@ -503,6 +504,19 @@ vcpuSwitch (Just new) = do
...
+    curVCPU <- gets (armHSCurVCPU . ksArchState)
+    tcbVCPU <- archThreadGet atcbVCPUPtr t
+    when (tcbVCPU == mapMaybe fst curVCPU) vcpuFlush
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/VCPU/AARCH64.hs:518]: if both are None, do you still flush? why?

Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/VCPU/AARCH64.hs:518]: this also means you have a check in vcpuFlush that doesn't make a lot of sense (unless verification needed this exact structure?)

File: spec/haskell/src/SEL4/Kernel/Thread/ARM.lhs [hunk 24]
```diff
@@ -68,4 +68,9 @@ There is nothing special about idle thread activation on ARM.
 There is nothing special that needs to be done before calling nextDomain on ARM.
 
 > prepareNextDomain :: Kernel ()
-> prepareNextDomain = return ()
+> prepareNextDomain =
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Kernel/Thread/ARM.lhs:73]: comment above says "There is nothing special that needs to be done before calling nextDomain on ARM.", might want to tweak

File: spec/abstract/X64/ArchTcb_A.thy [hunk 25]
```diff
@@ -51,6 +51,8 @@ definition arch_post_set_flags :: "obj_ref \<Rightarrow> tcb_flags \<Rightarrow>
   "arch_post_set_flags t flags \<equiv>
      when (FpuDisabled \<in> flags) (fpu_release t)"
 
+(* This is defined here in comparision to its location in HYP architectures due to not causing a
+   circular dependency by calling functions that have to be defined later. *)
```
Comment (Xaphiosis) [inline spec/abstract/X64/ArchTcb_A.thy]: Hmm. In contrast as opposed to comparison? Are you saying that this can be here on X64 since unlike HYP architectures that does not cause a circular function dependency?
"As opposed to HYP architectures, we can keep this here as it does not cause circular function dependency"?

Comment (Xaphiosis) [reply spec/abstract/X64/ArchTcb_A.thy]: (same on RISCV64 and ARM)

File: proof/invariant-abstract/AARCH64/ArchAInvsToplevel_AI.thy [hunk 26]
```diff
@@ -0,0 +1,13 @@
+(*
+ * Copyright 2025, Proofcraft Pty Ltd
+ *
+ * SPDX-License-Identifier: GPL-2.0-only
+ *)
+
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchAInvsToplevel_AI.thy:6]: Might be worth some kind of comment saying that this theory should remain empty, since it's intended only to act as a convenient collection of all the AInvs roots?

Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchAInvsToplevel_AI.thy:6]: Wait, no, this is ArchAInvsTopLevel_AI, as opposed to AInvsTopLevel_AI ... that got me very confused. Definitely needs some commentary on what these are for. I think I understand now after bouncing around (can't put these parallel theories in AInvsTopLevel_AI since their existence is arch-dependent) but that should be explained.

File: proof/refine/AARCH64/orphanage/Orphanage.thy [hunk 27]
```diff
@@ -920,13 +924,13 @@ proof -
        apply (clarsimp)
        apply (rename_tac candidate)
        apply (wpsimp wp: do_switch_to abort_switch_to_enq abort_switch_to_app)
-              (* isHighestPrio *)
+      (* isHighestPrio *)
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/orphanage/Orphanage.thy]: autoindenter

File: proof/crefine/AARCH64/VSpace_C.thy [hunk 28]
```diff
@@ -3047,6 +3047,164 @@ lemma vcpu_switch_ccorres:
...
+     (modifyArchState (armHSCurVCPU_update (\<lambda>_. curvcpu))) SKIP"
+  apply (clarsimp simp: modifyArchState_def)
+  apply (rule ccorres_from_vcg)
+  apply (rule allI, rule conseqPre, vcg)
+  apply (clarsimp simp: simpler_gets_def simpler_modify_def)
+  apply (clarsimp simp: rf_sr_def cstate_relation_def Let_def)
+  apply (clarsimp simp: carch_state_relation_def carch_globals_def cur_vcpu_relation_def)
+  done
+
+(* FIXME ARMHYP: MOVE *)
```
Comment (Xaphiosis) [inline proof/crefine/AARCH64/VSpace_C.thy]: I think this FIXME could be retired, no idea where one would move it to from here

File: proof/refine/ARM_HYP/Schedule_R.thy [hunk 29]
```diff
@@ -15,11 +15,17 @@ declare hoare_weak_lift_imp[wp_split del]
...
 declare sts_rel_idle [simp]
 
-lemma corres_if2:
+lemma corres_if:
  "\<lbrakk> G = G'; G \<Longrightarrow> corres r P P' a c; \<not> G' \<Longrightarrow> corres r Q Q' b d \<rbrakk>
     \<Longrightarrow> corres r (if G then P else Q) (if G' then P' else Q') (if G then a else b) (if G' then c else d)"
   by simp
 
+lemmas corres_if2 = corres_if[unfolded if_apply_def2]
+lemmas corres_when =
```
Comment (Xaphiosis) [inline proof/refine/ARM_HYP/Schedule_R.thy:25]: newline before

File: proof/refine/ARM_HYP/Schedule_R.thy [hunk 30]
```diff
@@ -15,11 +15,17 @@ declare hoare_weak_lift_imp[wp_split del]
...
+    corres_if2[where b="return ()" and d="return ()"
+                and Q="\<top>" and Q'="\<top>" and r=dc, simplified,
```
Comment (Xaphiosis) [inline proof/refine/ARM_HYP/Schedule_R.thy]: looks like an edge case for the style guide! the `folded` below should definitely be at the same indentation level as the `where`, but the `and` falls under the `where`... so I guess make this line so that the `b=` and `Q=` align? @lsf37 : bikeshed?

File: proof/refine/ARM_HYP/Schedule_R.thy [hunk 31]
```diff
@@ -1858,10 +1864,48 @@ lemma nextDomain_invs_no_cicd':
                         all_invs_but_ct_idle_or_in_cur_domain'_def)
   done
 
+lemma vcpuInvalidateActive_corres[corres]:
```
Comment (Xaphiosis) [inline proof/refine/ARM_HYP/Schedule_R.thy:1867]: sanity check: this is moved, right?

File: proof/refine/AARCH64/VSpace_R.thy [hunk 32]
```diff
@@ -528,10 +528,10 @@ lemma restoreVirtTimer_corres[corres]:
   done
 
 lemma vcpuSave_corres:
-  "corres dc (vcpu_at (fst cvcpu)) (vcpu_at' (fst cvcpu) and no_0_obj')
-             (vcpu_save (Some cvcpu)) (vcpuSave (Some cvcpu))"
-  apply (clarsimp simp add: vcpu_save_def vcpuSave_def armvVCPUSave_def)
-  apply (cases cvcpu, clarsimp, rename_tac v active)
+  "corres dc (none_bot (\<lambda>vcpu. vcpu_at (fst vcpu)) cvcpu) (none_bot (\<lambda>vcpu. vcpu_at' (fst vcpu)) cvcpu and no_0_obj')
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/VSpace_R.thy:531]: what's `none_bot` again? it looks like a quick_print accident, but maybe I'm not familiar with it

File: proof/refine/ARM_HYP/Schedule_R.thy (hunk 31 above)
Comment (corlewis) [reply proof/refine/ARM_HYP/Schedule_R.thy:1867]: Yes, moved here so that it could be used in `vcpuFlush_corres`.

File: proof/refine/AARCH64/Syscall_R.thy [hunk 33]
```diff
@@ -349,11 +349,22 @@ lemma threadSet_tcbDomain_update_sch_act_wf[wp]:
...
   done
 
+lemma vcpuFlushIfCur_corres[corres]:
+  "corres dc (pspace_aligned and pspace_distinct and valid_arch_state and tcb_at tptr)
+             (pspace_aligned' and pspace_distinct' and no_0_obj')
+             (vcpu_flush_if_current tptr) (vcpuFlushIfCur tptr)"
+  unfolding vcpu_flush_if_current_def vcpuFlushIfCur_def
+  by (corres wp: arch_thread_get_wp archThreadGet_wp)
+
+crunch vcpu_flush_if_current
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Syscall_R.thy:359]: ah yes, seeing `vcpu_flush_if_current` and `vcpuFlushIfCur` side by side, I definitely think the latter should be `vcpuFlushIfCurrent`

File: proof/refine/AARCH64/Schedule_R.thy [hunk 34]
```diff
@@ -16,11 +16,17 @@ declare hoare_weak_lift_imp[wp_split del]
...
 declare sts_rel_idle [simp]
 
-lemma corres_if2:
+lemma corres_if:
  "\<lbrakk> G = G'; G \<Longrightarrow> corres r P P' a c; \<not> G' \<Longrightarrow> corres r Q Q' b d \<rbrakk>
     \<Longrightarrow> corres r (if G then P else Q) (if G' then P' else Q') (if G then a else b) (if G' then c else d)"
   by simp
 
+lemmas corres_if2 = corres_if[unfolded if_apply_def2]
+lemmas corres_when =
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Schedule_R.thy:26]: see comment on AARCH64/Schedule_R

File: proof/refine/AARCH64/VSpace_R.thy (hunk 32 above)
Comment (corlewis) [reply proof/refine/AARCH64/VSpace_R.thy:531]: `none_bot ≡ case_option bot`, with various helpful `simp` rules and automation.

File: proof/invariant-abstract/Invariants_AI.thy [hunk 35]
```diff
@@ -1285,6 +1285,8 @@ lemma valid_objsE [elim]:
   "\<lbrakk> valid_objs s; kheap s x = Some obj; valid_obj x obj s \<Longrightarrow> R \<rbrakk> \<Longrightarrow> R"
   unfolding valid_objs_def by (auto simp: dom_def)
 
+\<comment> \<open>This would be a simp rule but too many existing proofs expect valid_obj and break when it is
+    preemptively simplified into arch_valid_obj.\<close>
```
Comment (Xaphiosis) [inline proof/invariant-abstract/Invariants_AI.thy:1290]: I had the same issue with `capMasterCap` when arch-splitting, it simplified for the "generic" arch object case but then nothing else would work with it in the generic context. I expect this kind of thing is not uncommon.

File: proof/refine/AARCH64/Syscall_R.thy (hunk 33 above)
Comment (corlewis) [reply proof/refine/AARCH64/Syscall_R.thy:359]: Confusingly, I went with `vcpu_flush_if_current` in the C as well so I'm not sure why I did the Haskell differently. Will change.

File: proof/invariant-abstract/Invariants_AI.thy (hunk 35 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/Invariants_AI.thy:1290]: For proofs that involve things like `valid_obj X Y = valid_obj X Y'` or something, I'm not sure whether we'd ever want these as simp, otherwise you'd need to simp del them to deal with the generic concept of valid_obj. Hmm. Not sure about this comment in that case.

File: proof/invariant-abstract/AARCH64/ArchFinalise_AI.thy [hunk 36]
```diff
@@ -1296,6 +1292,12 @@ crunch arch_finalise_cap
   for cte_wp_at[wp,Finalise_AI_assms]: "\<lambda>s. P (cte_wp_at P' p s)"
   (simp: crunch_simps assertE_def wp: crunch_wps set_object_cte_at)
 
+declare arch_post_cap_deletion_cur_thread[Finalise_AI_assms]
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchFinalise_AI.thy:1295]: unusual place for this? doesn't seem to come out of the above crunches, so is this tagging a fact that was proved in another theory?

File: proof/invariant-abstract/Syscall_AI.thy [hunk 37]
```diff
@@ -26,7 +26,6 @@ arch_requalify_consts
 arch_requalify_facts
   resetTimer_device_state_inv
   arch_decode_invocation_inv
-  arch_post_cap_deletion_cur_thread
```
Comment (Xaphiosis) [inline proof/invariant-abstract/Syscall_AI.thy:29]: Ah, converted to interface from a requalify. I approve!

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 38]
```diff
@@ -2020,33 +2034,80 @@ lemma set_priority_valid_sched[wp]:
...
+  assumes x: "\<And>tcb. Q (P (etcb_of (f tcb))) = Q (P (etcb_of tcb))"
+  shows      "thread_set f t' \<lbrace>\<lambda>s. Q (etcb_at P t s)\<rbrace>"
+  apply (simp add: thread_set_def pred_tcb_at_def)
+  apply wp
+   apply (rule set_object_tcb_etcb_at)
+  apply wp
+  apply (clarsimp simp: etcb_at_def)
+  apply (drule get_tcb_SomeD)
+  apply (clarsimp simp: x etcbs_of'_def)
+  done
```
Comment (Xaphiosis) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:2055]: this proof looks a bit old (assumes x, wp+simp vs wpsimp), is it moved?

File: spec/haskell/src/SEL4/Object/VCPU/AARCH64.hs (hunk 23 above)
Comment (corlewis) [reply spec/haskell/src/SEL4/Object/VCPU/AARCH64.hs:518]: In some sense it's the other way around, adding the check about them being `None` here would be a duplicate of the check in `vcpuFlush`, which has to be there due to it being called directly from `prepareNextDomain`. This structure made the most sense to me to minimise duplication and lined up the best with how the C had to be structured.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 39]
```diff
@@ -822,8 +823,14 @@ locale DetSchedSchedule_AI =
     "\<And>t. \<lbrace>valid_list\<rbrace> arch_switch_to_thread t \<lbrace>\<lambda>_. valid_list\<rbrace>"
   assumes arch_switch_to_idle_thread_valid_list'[wp]:
     "\<lbrace>valid_list\<rbrace> arch_switch_to_idle_thread \<lbrace>\<lambda>_. valid_list\<rbrace>"
-  assumes prepare_thread_delete_idel_thread[wp] :
-    "\<And>t. prepare_thread_delete t \<lbrace>\<lambda>(s:: det_ext state). P (idle_thread s)\<rbrace>"
+  assumes prepare_thread_delete_idle_thread[wp]:
+    "\<And>P t. prepare_thread_delete t \<lbrace>\<lambda>s::det_state. P (idle_thread s)\<rbrace>"
```
Comment (Xaphiosis) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:827]: Nice typo fix. I'm also wondering why you've introduced `state_ext` here and used it for the stuff you've added, but the other ones use `det_state`

File: proof/invariant-abstract/DetSchedInvs_AI.thy [hunk 40]
```diff
@@ -259,6 +259,19 @@ lemmas sch_act_sane_lift = hoare_lift_Pf2[where f="cur_thread" and P="scheduler_
 
 lemmas not_queued_def = not_queued_2_def
 
+\<comment> \<open>Not safe for wp because P could unify in a way that loops\<close>
+lemma in_cur_domain_lift_weak_gen:
+  assumes a: "\<And>P . f \<lbrace>\<lambda>s. P (cur_domain s)\<rbrace>"
+      and b: "\<And>Q. \<lbrace>\<lambda>s. P (etcb_at Q t s) \<and> P' s\<rbrace> f \<lbrace>\<lambda>_ s. P (etcb_at Q t s)\<rbrace>"
+    shows "\<lbrace>\<lambda>s. P (in_cur_domain t s) \<and> P' s\<rbrace> f \<lbrace>\<lambda>_ s. P (in_cur_domain t s)\<rbrace>"
```
Comment (Xaphiosis) [inline proof/invariant-abstract/DetSchedInvs_AI.thy]: style: I think `shows` should not be indented this way; it belongs more to lemma than assumes

File: proof/invariant-abstract/DetSchedAux_AI.thy [hunk 41]
```diff
@@ -155,6 +154,15 @@ lemma invoke_untyped_etcb_at:
                     hoare_drop_impE_E)
   done
 
+lemma invoke_untyped_etcb_at:
+  "\<lbrace>\<lambda>s::'state_ext state. etcb_at P t s \<and> invs s \<and> st_tcb_at (Not o inactive and Not \<circ> idle) t s \<and> ct_active s \<and> valid_untyped_inv ui s\<rbrace>
+   invoke_untyped ui
+   \<lbrace>\<lambda>_. etcb_at P t\<rbrace>"
+  apply (rule hoare_post_imp[where Q'="\<lambda>_ s. st_tcb_at (Not \<circ> inactive) t s \<and> (st_tcb_at (Not \<circ> inactive) t s \<longrightarrow> etcb_at P t s)"])
```
Comment (Xaphiosis) [inline proof/invariant-abstract/DetSchedAux_AI.thy:161]: Does it not make sense to clobber `invoke_untyped_etcb_at`?

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 38 above)
Comment (corlewis) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:2055]: I think it started as a copy of a old proof, possibly `thread_set_no_change_tcb_pred`.

File: proof/invariant-abstract/ARM_HYP/ArchVSpace_AI.thy [hunk 42]
```diff
@@ -2683,49 +2682,47 @@ definition "cur_vcpu_at v s \<equiv> case v of None \<Rightarrow> True | Some (v
 
 lemma invs_current_vcpu_update:
   "\<lbrakk>cur_vcpu_at v s; valid_arch_state s\<rbrakk> \<Longrightarrow>
-      invs (s\<lparr>arch_state := arch_state s
-               \<lparr>arm_current_vcpu := v\<rparr>\<rparr>) = invs s"
+     invs (s\<lparr>arch_state := arch_state s \<lparr>arm_current_vcpu := v\<rparr>\<rparr>) = invs s"
```
Comment (Xaphiosis) [inline proof/invariant-abstract/ARM_HYP/ArchVSpace_AI.thy:2685]: while we're here, indentation?

File: proof/invariant-abstract/DetSchedAux_AI.thy (hunk 41 above)
Comment (corlewis) [reply proof/invariant-abstract/DetSchedAux_AI.thy:161]: Do you mean get rid of the original lemma? If so, the proofs that were using it are pretty fiddly and expect the implication in the postcondition, while I'm using it in more standard ways that don't.

File: proof/invariant-abstract/AInvsToplevel_AI.thy [hunk 43]
```diff
@@ -0,0 +1,17 @@
...
+
+theory AInvsToplevel_AI
+imports
+  ArchAInvsToplevel_AI
+  KernelInit_AI
+begin
+
+(* Remove this rule from [wp] here because it is not safe for proofs that involve extended state. It
+   is also removed in Deterministic_AI but may have been added back in during a theory merge. *)
+declare dxo_wp_weak[wp del]
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AInvsToplevel_AI.thy:22]: Still feels weird that it can't be used only in the theories that need it, but leaks out like this instead.

File: proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy [hunk 44]
```diff
@@ -462,106 +558,194 @@ crunch perform_page_table_invocation, perform_page_directory_invocation, perform
...
+  "\<lbrakk>kheap s tptr = Some (TCB tcb); tcb_vcpu (tcb_arch tcb) = Some vcpuptr; sym_refs (state_hyp_refs_of s)\<rbrakk>
+   \<Longrightarrow> \<exists>vcpu. kheap s vcpuptr = Some (ArchObj (VCPU vcpu)) \<and> vcpu_tcb vcpu = Some tptr"
+  apply (drule_tac x=tptr in sym_refsD[rotated])
+   apply (fastforce simp: state_hyp_refs_of_def)
+  apply (auto simp: state_hyp_refs_of_def hyp_refs_of_def refs_of_a_def tcb_vcpu_refs_def vcpu_tcb_refs_def
+             split: option.splits kernel_object.splits arch_kernel_obj.splits)
+  done
+
+lemma arch_prepare_set_domain_valid_cur_vcpu[wp]:
+  "\<lbrace>\<lambda>s. valid_cur_vcpu s \<and> sym_refs (state_hyp_refs_of s) \<and> in_cur_domain (cur_thread s) s\<rbrace>
```
Comment (Xaphiosis) [inline proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy:703]: almost tempting to have an abbreviation for `(%s. in_cur_domain (cur_thread s) s)` so we can keep using `and`. probably not worth the bother

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 39 above)
Comment (corlewis) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:827]: We probably should have always had a `state_ext` and been using it where we could, but I think that we were lazy at the time due to most of the DetSched lemmas originally needing to be `det_state` anyway. This has changed since then and I'm using the ones I've added in other places where them being `det_state` causes problems.

File: proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy [hunk 45]
```diff
@@ -590,32 +781,44 @@ lemma perform_invocation_valid_cur_vcpu[wp]:
...
+         intro!: ct_in_cur_domain_active_resume_cur_thread)
 
 lemma handle_recv_valid_cur_vcpu[wp]:
   "handle_recv is_blocking \<lbrace>valid_cur_vcpu\<rbrace>"
   unfolding handle_recv_def Let_def ep_ntfn_cap_case_helper delete_caller_cap_def
   by (wpsimp wp: hoare_drop_imps)
 
 lemma handle_event_valid_cur_vcpu:
-  "\<lbrace>valid_cur_vcpu and invs and (\<lambda>s. e \<noteq> Interrupt \<longrightarrow> ct_active s)\<rbrace>
+  "\<lbrace>valid_cur_vcpu and einvs and (\<lambda>s. e \<noteq> Interrupt \<longrightarrow> ct_active s)
```
Comment (Xaphiosis) [inline proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy:847]: I know you had a bit of a battle with handle_event... can you say something (here, not as a comment) as to how we can use einvs here, or why, or how you came up with this schema?

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 39 above)
Comment (corlewis) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:827]: I think there's a comment on one of the DetSched locales saying something like this and that we could be using `state_ext` more.

File: proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy [hunk 46]
```diff
@@ -462,106 +558,194 @@ crunch perform_page_table_invocation, perform_page_directory_invocation, perform
...
+       apply (wp hoare_imp_lift_something typ_at_pred_tcb_at_lift)[1]
+      apply (rule hoare_drop_imps)
+      apply (wpsimp wp: delete_objects_etcb_at')+
+  apply (frule st_tcb_ex_cap)
+    apply fastforce
+   apply (clarsimp split: Structures_A.thread_state.splits)
+  apply (clarsimp simp: ex_nonz_cap_to_def valid_aci_def)
+  apply (frule invs_untyped_children)
+  apply (clarsimp simp:cte_wp_at_caps_of_state)
+  apply (erule_tac ptr="(aa,ba)" in untyped_children_in_mdbE[where P="\<lambda>c. t \<in> zobj_refs c" for t])
```
Comment (Xaphiosis) [inline proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy]: moved? if not, rename_tac and spaces after `:`

File: proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy [hunk 47]
```diff
@@ -462,106 +558,194 @@ crunch perform_page_table_invocation, perform_page_directory_invocation, perform
...
    \<lbrace>\<lambda>_. valid_cur_vcpu\<rbrace>"
   unfolding invoke_cnode_def
   by (wpc | wpsimp wp: hoare_drop_imps hoare_vcg_all_lift)+
 
-lemma valid_cur_vcpu_trans_state[simp]:
-  "valid_cur_vcpu (trans_state f s) = valid_cur_vcpu s"
-  by (clarsimp simp: valid_cur_vcpu_def pred_tcb_at_def obj_at_def active_cur_vcpu_of_def)
+lemma thread_set_valid_cur_vcpu_unchanged:
+  "\<lbrakk>\<And>tcb. tcb_arch (f tcb) = tcb_arch tcb; \<And>tcb. tcb_domain (f tcb) = tcb_domain tcb\<rbrakk>
+    \<Longrightarrow> thread_set f tptr \<lbrace>valid_cur_vcpu\<rbrace>"
```
Comment (Xaphiosis) [inline proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy]: indent on ==>

File: proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy [hunk 48]
```diff
@@ -304,30 +329,91 @@ lemma do_reply_transfer_arch_tcb_at[wp]:
...
+   apply (clarsimp split: Structures_A.thread_state.splits)
+  apply (drule ex_nonz_cap_to_overlap,
+         ((simp add: cte_wp_at_caps_of_state descendants_range_def2 empty_descendants_range_in)+))
+  done
+
+lemma invoke_untyped_etcb_at:
+  "\<lbrace>\<lambda>s. Q (etcb_at P t s) \<and> invs s \<and> st_tcb_at (Not o inactive and Not \<circ> idle) t s \<and> ct_active s \<and> valid_untyped_inv ui s\<rbrace>
+   invoke_untyped ui
+   \<lbrace>\<lambda>_ s. Q (etcb_at P t s)\<rbrace>"
+  apply (rule hoare_post_imp[where Q'="\<lambda>_ s. st_tcb_at (Not \<circ> inactive) t s \<and> (st_tcb_at (Not \<circ> inactive) t s \<longrightarrow> Q (etcb_at P t s))"])
```
Comment (Xaphiosis) [inline proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy:421]: feels like I commented on this before, but there the `invoke_untyped_etcb_at` got a `'` only, instead of appearing as an addition... bit confused what happened here

File: proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy [hunk 49]
```diff
@@ -96,88 +115,70 @@ crunch vcpu_update, do_machine_op, invalidate_hw_asid_entry, invalidate_asid
...
-   \<lbrace>\<lambda>_ s. valid_cur_vcpu (s\<lparr>cur_thread := t\<rparr>)\<rbrace>"
+  "\<lbrace>\<top>\<rbrace> arch_switch_to_thread t \<lbrace>\<lambda>_ s. valid_cur_vcpu (s\<lparr>cur_thread := t\<rparr>)\<rbrace>"
   unfolding arch_switch_to_thread_def
   apply wpsimp
   by (fastforce simp: active_cur_vcpu_of_def pred_tcb_at_def obj_at_def get_tcb_def
                split: option.splits kernel_object.splits)
 
 lemma switch_to_thread_valid_cur_vcpu[wp]:
-  "switch_to_thread t \<lbrace>valid_cur_vcpu\<rbrace>"
+  "\<lbrace>\<top>\<rbrace> switch_to_thread t \<lbrace>\<lambda>_. valid_cur_vcpu\<rbrace>"
```
Comment (Xaphiosis) [inline proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy:188]: nice!

File: proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy [hunk 50]
```diff
@@ -6,7 +6,7 @@
  *)
 
 theory ArchVCPU_AI
-imports AInvs
+imports ArchDetSchedSchedule_AI
 begin
```
Comment (Xaphiosis) [inline proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy:10]: unless I got confused during review, AARCH64 has an additional `ArchVCPUDomain_AI` that ARM_HYP does not... any reasons why?

File: proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy (hunk 45 above)
Comment (corlewis) [reply proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy:847]: This isn't actually the scene of that specific battle, that's in `Syscall_AC`. I'm using `einvs` here for the existing `ct_in_cur_domain` invariant, which says that if the scheduler action is `resume_cur_thread` then the current thread is either the idle thread or in the current domain. I use that to resolve the various `in_cur_domain (cur_thread s) s` preconditions once I'm able to.

File: proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy [hunk 51]
```diff
@@ -474,111 +585,200 @@ crunch perform_page_table_invocation, perform_page_invocation,
...
+       apply (wp hoare_imp_lift_something typ_at_pred_tcb_at_lift)[1]
+      apply (rule hoare_drop_imps)
+      apply (wpsimp wp: delete_objects_etcb_at')+
+  apply (frule st_tcb_ex_cap)
+    apply fastforce
+   apply (clarsimp split: Structures_A.thread_state.splits)
+  apply (clarsimp simp: ex_nonz_cap_to_def valid_aci_def)
+  apply (frule invs_untyped_children)
+  apply (clarsimp simp:cte_wp_at_caps_of_state)
+  apply (erule_tac ptr="(aa,ba)" in untyped_children_in_mdbE[where P="\<lambda>c. t \<in> zobj_refs c" for t])
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy]: same comments as for ARM_HYP

File: proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy [hunk 52]
```diff
@@ -474,111 +585,200 @@ crunch perform_page_table_invocation, perform_page_invocation,
...
    \<lbrace>\<lambda>_. valid_cur_vcpu\<rbrace>"
   unfolding invoke_cnode_def
   by (wpc | wpsimp wp: hoare_drop_imps hoare_vcg_all_lift)+
 
-lemma valid_cur_vcpu_trans_state[simp]:
-  "valid_cur_vcpu (trans_state f s) = valid_cur_vcpu s"
-  by (clarsimp simp: valid_cur_vcpu_def pred_tcb_at_def obj_at_def active_cur_vcpu_of_def)
+lemma thread_set_valid_cur_vcpu_unchanged:
+  "\<lbrakk>\<And>tcb. tcb_arch (f tcb) = tcb_arch tcb; \<And>tcb. tcb_domain (f tcb) = tcb_domain tcb\<rbrakk>
+    \<Longrightarrow> thread_set f tptr \<lbrace>valid_cur_vcpu\<rbrace>"
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy]: indent on ==>

File: proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy (hunk 50 above)
Comment (corlewis) [reply proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy:10]: Ah, I actually meant to mention that when I made this PR, thanks for pointing it out. I have currently only proven `cur_vcpu_in_cur_domain` for AARCH64, because the way I defined it and its lemmas makes a lot of use of vcpu projections that don't exist in ARM_HYP. Backporting them feels like quite a bit of a project, as does reworking `ArchVCPUDomain_AI` to not use them.

One of the reasons that we're introducing this invariant is to make use of it in Infoflow and we don't have immediate plans to extend them for ARM_HYP, so I'm hoping that this is sufficient for now and we can leave further work for later.

File: proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy [hunk 53]
```diff
@@ -17,54 +17,82 @@ definition active_cur_vcpu_of :: "'z state \<Rightarrow> obj_ref option" where
                                                                  | _  \<Rightarrow> None"
 
 definition valid_cur_vcpu :: "'z::state_ext state \<Rightarrow> bool" where
-  "valid_cur_vcpu s \<equiv> arch_tcb_at (\<lambda>itcb. itcb_vcpu itcb = active_cur_vcpu_of s) (cur_thread s) s"
+  "valid_cur_vcpu s \<equiv>
+     in_cur_domain (cur_thread s) s \<or> cur_thread s = idle_thread s
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy:31]: right, so we only talk about the current vcpu being valid if the current thread is in the current domain (or idle) ... after a bit of thinking, makes sense

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy [hunk 54]
```diff
@@ -0,0 +1,597 @@
+(*
+ * Copyright 2024, Proofcraft Pty Ltd
+ *
+ * SPDX-License-Identifier: GPL-2.0-only
+ *)
+
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: given that this only exists on one architecture (unless I missed something), would be good to have a comment saying what this theory is for

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy [hunk 55]
```diff
@@ -0,0 +1,597 @@
...
+theory ArchVCPUDomain_AI
+imports ArchVCPU_AI
+begin
+
+context Arch begin arch_global_naming
+
+section \<open>cur_vcpu_in_cur_domain\<close>
+\<comment> \<open>FIXME: @{term cur_vcpu} could be reworked so that it could be reused here\<close>
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: newline above

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy (hunk 9 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: Agree with Gerwin here, maybe an issue and fixed in another PR?

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy [hunk 56]
```diff
@@ -0,0 +1,597 @@
...
+  for cur_vcpu_in_cur_domain[wp]: cur_vcpu_in_cur_domain
+
+lemma call_kernel_cur_vcpu_in_cur_domain:
+  "\<lbrace>cur_vcpu_in_cur_domain and invs and valid_sched and (\<lambda>s. e \<noteq> Interrupt \<longrightarrow> ct_active s)
+    and (\<lambda>s. scheduler_action s = resume_cur_thread)\<rbrace>
+   call_kernel e
+   \<lbrace>\<lambda>_. cur_vcpu_in_cur_domain\<rbrace>"
+  unfolding call_kernel_def
+  apply (wpsimp | strengthen invs_valid_objs invs_hyp_sym_refs)+
+    apply (rule hoare_post_imp[where Q'="\<lambda>irq s. irq \<notin> Some ` non_kernel_IRQs \<and> cur_vcpu_in_cur_domain s \<and> valid_sched s \<and> invs s"])
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: if this is a relevant reasoning step to make the thing work, would be worth a comment... or at least what function this hoare_post_imp applies to

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy [hunk 57]
```diff
@@ -0,0 +1,597 @@
...
+   set_domain tptr new_dom
+   \<lbrace>\<lambda>_. cur_vcpu_in_cur_domain\<rbrace>"
+  unfolding set_domain_def
+  by (wpsimp wp: thread_set_domain_cur_vcpu_in_cur_domain hoare_vcg_disj_lift | wps)+
+
+crunch fpu_release
+  for arch_tcb_vcpu_at[wp]: "\<lambda>s. (arch_tcb_at (\<lambda>itcb. P (itcb_vcpu itcb)) t s)"
+  (simp: crunch_simps wp: crunch_wps)
+
+lemma vcpu_flush_if_current_arm_current_vcpu_None[wp]:
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: it looks like this isn't a good name, the postcondition is a simplified implies that says "if it's not none, then it's not the current vcpu"

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy [hunk 58]
```diff
@@ -0,0 +1,597 @@
...
+
+lemma arch_perform_invocation_valid_cur_vcpu[wp]:
+  "\<lbrace>cur_vcpu_in_cur_domain and ct_in_cur_domain and cur_vcpu and valid_arch_inv ai
+    and (\<lambda>s. scheduler_action s = resume_cur_thread)\<rbrace>
+   arch_perform_invocation ai
+   \<lbrace>\<lambda>_. cur_vcpu_in_cur_domain\<rbrace>"
+  unfolding arch_perform_invocation_def
+  by (wpsimp simp: valid_arch_inv_def)
+
+\<comment> \<open>FIXME: move (where?)\<close>
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: bit confused about relationship between `ArchVCPUDomain_AI` and `ArchVCPU_AI`... possibly I'd expect it to go into the latter?

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy [hunk 59]
```diff
@@ -0,0 +1,597 @@
...
+lemma cur_vcpu_in_cur_domain_updates[simp]:
+  "cur_vcpu_in_cur_domain (cur_thread_update f_ct s) = cur_vcpu_in_cur_domain s"
+  "cur_vcpu_in_cur_domain (machine_state_update f_ms s) = cur_vcpu_in_cur_domain s"
+  "cur_vcpu_in_cur_domain (cdt_update f_cdt s) = cur_vcpu_in_cur_domain s"
+  "cur_vcpu_in_cur_domain (cdt_list_update f_cdt_list s) = cur_vcpu_in_cur_domain s"
+  "cur_vcpu_in_cur_domain (work_units_completed_update f_work_units s) = cur_vcpu_in_cur_domain s"
+  "cur_vcpu_in_cur_domain (interrupt_states_update f_interrupt_states s) = cur_vcpu_in_cur_domain s"
+  "cur_vcpu_in_cur_domain (is_original_cap_update f_orig_cap s) = cur_vcpu_in_cur_domain s"
+  "cur_vcpu_in_cur_domain (arch_state_update (arm_asid_table_update f_asid_table) s) = cur_vcpu_in_cur_domain s"
+  "cur_vcpu_in_cur_domain (s\<lparr>arch_state := (arm_asid_table_update f_asid_table) (arch_state s)\<rparr>) = cur_vcpu_in_cur_domain s" \<comment> \<open>FIXME: previous line doesn't work for this, can it be generalised?\<close>
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: It would depend on the underlying term. Nothing obvious springs to mind. Have you looked at it with quick_print on, maybe it shows some of the underlying structure?

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy (hunk 58 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: same for the other `(where?)` above in the file

**Review by Xaphiosis — APPROVED** [review]
Mostly nitpicks and questions. This turned out to be larger and more complex than we expected. Nicely done.

For this commit, I think I would like more direction:
```
ainvs: add new AInvsToplevel_AI to AInvs session

In particular, this includes KernelInit along with any files proving extra
arch-specific invariants, such as ArchVCPU_AI and ArchFPU_AI.
```

The issue I have is that there is a structure without explanation. There is a new `AInvsTopLevel_AI` which must transitively include all of AInvs theories (for convenience in interactive sessions). Then, you added an extra node to each architecture named `ArchAInvsTopLevel_AI` which serves a similar role, but *only for theories whose existence is related to the architecture*, e.g. VCPU proofs. I already commented on these theories not having header comments explaining this, but the commit definitely should.

File: spec/haskell/src/SEL4/Object/VCPU/AARCH64.hs (hunk 23 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/VCPU/AARCH64.hs:518]: Ah, if the check had to be there for `vcpuFlush`, then this does indeed work out. Normally I'd suggest a comment, but `vcpuFlush` is a few lines above it.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 38 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:2055]: Maybe worth a cleanup then?

File: proof/invariant-abstract/DetSchedAux_AI.thy (hunk 41 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/DetSchedAux_AI.thy:161]: Right, if it's used that way, sure. It ended up being confusing seeing them as additions in AARCH64 AInvs somewhere, and a change here.

File: proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy (hunk 45 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy:847]: Ahh, this reminds me of the advice I tried to give, related to `handle_event`. Makes sense, thank you!

File: proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy (hunk 50 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy:10]: I suspected it was because ARM_HYP isn't heading for infoflow... but it being hinged on the projections makes sense. I agree, but I think that this should be documented somewhere... my best guess is in the commits, most likely the one that creates `ArchVCPUDomain_AI`; would it make sense to explain why ARM_HYP doesn't get one there?

File: spec/haskell/src/SEL4/Object/ObjectType/AARCH64.hs (hunk 21 above)
Comment (corlewis) [reply spec/haskell/src/SEL4/Object/ObjectType/AARCH64.hs]: Your wording does explain it better, I'll change to use it.

File: spec/haskell/src/SEL4/Kernel/Thread/ARM.lhs (hunk 24 above)
Comment (corlewis) [reply spec/haskell/src/SEL4/Kernel/Thread/ARM.lhs:73]: Changed to "When calling nextDomain on ARM, if CONFIG_ARM_HYPERVISOR_SUPPORT is set we first save and clear any current VCPU state, to ensure that we do not later read from or write to cross-domain state."

File: spec/abstract/X64/ArchTcb_A.thy (hunk 25 above)
Comment (corlewis) [reply spec/abstract/X64/ArchTcb_A.thy]: Changed as suggested.

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy (hunk 57 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: Ah, I think the postcondition was originally just saying that it's none before I realised that we needed the disjunction/implication.
I've renamed this to `vcpu_flush_if_current_make_vcpu_safe`, which is the naming scheme that the next lemma is using.

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy (hunk 58 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: They feel more general to me than `ArchVCPU_AI`, since they're using `sym_refs` to show that if you have one side of the TCB/VCPU link then you have the other as well. I might move them to `TcbAcc_AI`, that's where the similar lemmas are that connect the thread state and endpoint/notification queues.

Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: I guess the other option would be moving them into `IpcCancel_AI` next to the equivalent lemmas for bound TCBs and notifications. `TcbAcc_AI` does feel a bit more suitable though, so I might move all four of these there instead.

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy (hunk 59 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: Nothing obvious with quick_print on but now that I'm looking at this again, I think the two versions are slightly different in how they bind and operate on `arch_state s`. It still feels like there should be a way to generalise this but probably not worth trying to do here. Should I remove the FIXME?

Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: To make it explicit, I think the difference is between
```
λs. arch_state_update (λarch_state. arm_asid_table_update f_asid_table arch_state) s
```
and
```
λs. arch_state_update (λ_. arm_asid_table_update f_asid_table (arch_state s)) s
```

File: proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy (hunk 50 above)
Comment (corlewis) [reply proof/invariant-abstract/ARM_HYP/ArchVCPU_AI.thy:10]: I've added a bit on this to that commit message, let me know if you think it's enough.

File: proof/invariant-abstract/AARCH64/ArchFPU_AI.thy [hunk 60]
```diff
@@ -4,6 +4,8 @@
  * SPDX-License-Identifier: GPL-2.0-only
  *)
 
+(* Show that the TCB that owns the current FPU is in the current domain. *)
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchFPU_AI.thy]: um, that's the comment you want for the ArchFPU_AI theory? you sure nothing else is going to go in here later?

File: proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy [hunk 61]
```diff
@@ -5,6 +5,13 @@
  * SPDX-License-Identifier: GPL-2.0-only
  *)
 
+(* Show that the current thread's VCPU is consistent with the current VCPU,
+   unless the current thread is in a different domain.
+   The exception is to handle this invariant possibly being temporarily broken
+   if the current thread has its VCPU changed. The idle thread then has to be
+   explicitly included as it is a special case for domains.
+   *)
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy]: I'm still feeling iffy on these being top-level theory comments when the theory names are much more generic. I guess we could go with "This theory currently contains the proof ...". @lsf37 any thoughts to add on this approach? I'm tempted to say "just move these until after the `begin`", but that's not ideal

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 38 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:2055]: much nicer now

File: spec/abstract/ARM/ArchTcb_A.thy [hunk 62]
```diff
@@ -37,8 +37,8 @@ where
 definition arch_post_set_flags :: "obj_ref \<Rightarrow> tcb_flags \<Rightarrow> (unit, 'a::state_ext) s_monad" where
   "arch_post_set_flags t flags \<equiv> return ()"
 
-(* This is defined here in comparision to its location in HYP architectures due to not causing a
-   circular dependency by calling functions that have to be defined later. *)
+(* As opposed to HYP architectures, we can keep this here as it does not cause circular function
+   dependency. *)
```
Comment (Xaphiosis) [inline spec/abstract/ARM/ArchTcb_A.thy]: I'd say "On non-hyp architectures, we ..."

Comment (Xaphiosis) [reply spec/abstract/ARM/ArchTcb_A.thy]: (same for other arches)

File: spec/haskell/src/SEL4/Object/ObjectType/RISCV64.hs [hunk 63]
```diff
@@ -217,5 +217,8 @@ capUntypedSize (ASIDPoolCap {}) = bit asidPoolBits
 prepareThreadDelete :: PPtr TCB -> Kernel ()
 prepareThreadDelete _ = return ()
 
+-- No arch-specific operations needed before changing the domain of a TCB on
+-- RISC-V platform.
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/ObjectType/RISCV64.hs]: suggest dropping platform here, as it's an architecture, platforms are individual boards

Comment (corlewis) [reply spec/haskell/src/SEL4/Object/ObjectType/RISCV64.hs]: Should I update the other comment that I copied for this as well?

Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/ObjectType/RISCV64.hs]: yes please

File: proof/invariant-abstract/AARCH64/ArchFPU_AI.thy (hunk 60 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchFPU_AI.thy]: Ah, true. So far new side-invariants have gone in their own file but maybe it was a mistake when I made `ArchVCPUDomain_AI` and it should have been a separate section in `ArchVCPU_AI`.

File: proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy (hunk 61 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy]: Hmm, good point. How about I move these comments to where the properties are defined and leave these theories without a top-level comment. Like you're saying, if more is added to them then any comment will basically just be a wordier version of the theory name.

File: proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy (hunk 59 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchVCPUDomain_AI.thy]: I don't see any obvious way to fix it, so removing the FIXME might be the right way to go.

File: proof/invariant-abstract/AARCH64/ArchFPU_AI.thy (hunk 60 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchFPU_AI.thy]: Ah, that's right, when I made `ArchVCPUDomain_AI` the theory structure was different and it couldn't go in `ArchVCPU_AI` because it needed `det_ext` state. This is no longer true, so maybe I should combine them again.

File: proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy (hunk 61 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy]: I think that would be nicer. Though then we don't have a toplevel comment anymore. I think a one-liner would work, or yeah, leave it for now and we see how they develop.

File: proof/invariant-abstract/AARCH64/ArchFPU_AI.thy (hunk 60 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchFPU_AI.thy]: I'm a bit lost. This comment is above `ArchFPU_AI` ... are you saying you can now put `ArchVCPUDomain_AI`'s contents into `ArchFPU_AI` and simplify the hierarchy? Worth a try, would simplify the hierarchy

File: spec/abstract/ARM/ArchTcb_A.thy (hunk 62 above)
Comment (corlewis) [reply spec/abstract/ARM/ArchTcb_A.thy]: Hmm, it's pedantic but I think I prefer the previous wording, as it makes it clearer to me that the circular dependency is on HYP architectures. It's those architectures that have this definition in an unexpected location, the comment here is more of a guard in case anyone has seen the HYP location first and is surprised to find the definition here.

File: proof/invariant-abstract/AARCH64/ArchFPU_AI.thy (hunk 60 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchFPU_AI.thy]: Sorry, I was combining `ArchFPU_AI`, `ArchVCPU_AI` and `ArchVCPUDomain_AI` in my response because they are all similar files proving separate properties and have all had a similar top-level comment added. There's currently nothing else that would make sense to add to `ArchFPU_AI` but I could move `ArchVCPUDomain_AI` into `ArchVCPU_AI`.

File: spec/abstract/ARM/ArchTcb_A.thy (hunk 62 above)
Comment (Xaphiosis) [reply spec/abstract/ARM/ArchTcb_A.thy]: "As opposed to hyp-enabled architectures, we ..." ?

Comment (corlewis) [reply spec/abstract/ARM/ArchTcb_A.thy]: Sure, I'm happy with that

File: proof/refine/ARM_HYP/Schedule_R.thy (hunk 30 above)
Comment (lsf37) [reply proof/refine/ARM_HYP/Schedule_R.thy]: I think if we apply our rule, the `and` should be either at the end of the preceding line (rhs style), or under `b` or such that `Q=` aligns with `b=`.

File: proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy (hunk 61 above)
Comment (lsf37) [reply proof/invariant-abstract/AARCH64/ArchVCPU_AI.thy]: I'd be happy with Raf's suggestion, let's move the specific comment lower and leave the top-level comment out for now until we know what else is actually going to be in here.
